US06668527B2
E. 4-Amino-3-(2-tert-butoxycarbonylamino-4-methyl-pentanoylamino)-benzoic acid methyl ester
Hydroxybenzotriazole monohydrate (760 mg, 5.62 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimde hydrochloride (973 mg, 5.07 mmol) were added to a dimethyl formamide (30 mL) solution of N-tert-butoxycarbonyl-L-leucine (1.06 g, 4.57 mmol). The mixture was stirred until all 1-(3-dimethylaminopropyl)-3-ethylcarbodiimde hydrochloride had dissolved. Methyl 3,4-diaminobenzoate (759 mg, 4.57 mmol) in dimethyl formamide (10 mL) and triethyl amine (0.68 mL, 4.89 mmol) were added sequentially. The reaction was stirred at room temperature over night and poured into water. This mixture was extracted with ethyl acetate three times. The organic portion was extracted with a saturated solution of sodium bicarbonate, water (2×) and brine. The organic portion was dried over magnesium sulfate and the solvent removed in vacuo. The resulting residue was chromatographed on a Biotage Flash 40S column eluting with ethyl acetate/hexanes (2:3) which yielded the title compound (690 mg, 40%). MS (CI) m/z 380.0 (M+1), 378.2 (M−1).

reactant | Hydroxybenzotriazole monohydrate | 5.62 mmol, 760 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-tert-butoxycarbonyl-L-leucine | 4.57 mmol, 1.06 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | Methyl 3,4-diaminobenzoate | 4.57 mmol, 759 mg | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | triethyl amine | 4.89 mmol, 0.68 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Amino-3-(2-tert-butoxycarbonylamino-4-methyl-pentanoylamino)-benzoic acid methyl ester | 690 mg, 40% | COC(C1=CC(=C(C=C1)N)NC(C(CC(C)C)NC(=O)OC(C)(C)C)=O)=O | C19H29N3O5
